US06426357B1
Preparation of 3-[(2S*,5R*)-5-{[2-(1H-Indol-3-yl)-ethylcarbamoyl]-methyl}-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-3-yl]-propionamide
A mixture of [3-(2-carbamoyl-ethyl)-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-5-yl]-acetic acid (1.36 g,3.28 mmol), 3-indolylethylamine (0.77 g, 4.8 mmol), diethyl cyanophosphonate (0.781 g, 4.8 mmol) and diisopropylethylamine (0.62 g, 4.8 mmol) was stirred in DMF (50 mL) for three hours at room temperature. The mixture was poured into water (100 mL). The product was extracted into ethyl acetate (2×100 mL). The extract was washed successively with sat. NaHCO3, H2O, brine, and then dried (MgSO4). The solvent was evaporated to a brown gum, which was washed twice with methanol to remove the dark color to provide the title compound as an off-white solid (0.3 g, 16.8%). 1H NMR (DMSO-d6) δ 10.8 (s, 1H), 8.19-8.23 (t, 1H), 7.51-7.55 (m, 3H), 7.33-7.46 (m, 4H), 7.27-7.31 (m, 3H), 7.14-7.15 (d, 1H, J=2.2 Hz), 7.02-7.07 (t, 1H), 6.91-6.98 (m, 2H), 6.13 (s, 1H ), 4.15-4.20 (dd, 1H, J=3.1 Hz ), 3.55-3.64 (m, 1H), 3.27-3.41 (m, 2H), 2.97-3.07 (m, 2H), 2.79-2.84 (t, 2H), 2.60 (s, 1H), 2.55-2.56 (d, 1H, J=4.7 Hz), 2.35-2.45 (m,1H), 2.08-2.18 (m, 1H), 95% cis based on peaks at δ 6.13 and 4.15-4.20); MS(ESI)557[M+H]+.FTIR(ATR) 1620, 1660 cm−1.Anal.(C30H28N4O3S2) calc. C, 64.72; H, 5.07; N, 10.06. Obs. C, 64.55; H, 4.98; N, 9.93.

reactant | [3-(2-carbamoyl-ethyl)-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-5-yl]-acetic acid | 3.28 mmol, 1.36 g | C(N)(=O)CCN1C(SC(C1=O)CC(=O)O)C=1SC(=CC1)C#CC1=CC=CC=C1 | C20H18N2O4S2
reactant | 3-indolylethylamine | 4.8 mmol, 0.77 g | N1C=C(C2=CC=CC=C12)CCN | C10H12N2
reactant | diethyl cyanophosphonate | 4.8 mmol, 0.781 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | diisopropylethylamine | 4.8 mmol, 0.62 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 3-[(2S*,5R*)-5-{[2-(1H-Indol-3-yl)-ethylcarbamoyl]-methyl}-4-oxo-2-(5-phenylethynyl-thiophen-2-yl)-thiazolidin-3-yl]-propionamide | 0.3 g, 16.8% | N1C=C(C2=CC=CC=C12)CCNC(=O)C[C@@H]1C(N([C@@H](S1)C=1SC(=CC1)C#CC1=CC=CC=C1)CCC(=O)N)=O | C30H28N4O3S2
